US06921759B2
Step 1: Preparation of methyl-N-{[2-(isopropoxycarbonyl)pyridin-3-yl]carbonyl}glycine
A solution of isopropyl 3-(chlorocarbonyl)pyridine-2-carboxylate (prepared as in P. Ornstein et. al. J. Med. Chem. 1989, 32, 827) (6.577 g, 31.44 mmol) in CH2Cl2 (50 ml) was added dropwise to a solution of glycine methyl ester hydrochloride (4.34 g, 34.58 mmol) and diisopropylethylamine (12.6 ml, 72.31 mmol) in CH2Cl2 (65 ml) at 0 C. The reaction was stirred for 16 hrs during which time the ice bath was allowed to expire. The solvent was evaporated in vacuo and the residue was used in the next step without further purification.

reactant | isopropyl 3-(chlorocarbonyl)pyridine-2-carboxylate | 31.44 mmol, 6.577 g | ClC(=O)C=1C(=NC=CC1)C(=O)OC(C)C | C10H10ClNO3
reactant | glycine methyl ester hydrochloride | 34.58 mmol, 4.34 g | Cl.COC(CN)=O
reactant | diisopropylethylamine | 72.31 mmol, 12.6 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 65 ml | C(Cl)Cl | CH2Cl2
product | methyl-N-{[2-(isopropoxycarbonyl)pyridin-3-yl]carbonyl}glycine | CN(CC(=O)O)C(=O)C=1C(=NC=CC1)C(=O)OC(C)C | C13H16N2O5
